US07601716B2
4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid ethyl ester
1-(2-Chloropyridin-3-ylmethyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (389 mg) was reacted with (4-ethoxycarbonylphenyl) boronic acid as in General Procedure 4B to give the title compound as a yellow solid. LCMS: m/z=409.34 (M+H+).

reactant | 1-(2-Chloropyridin-3-ylmethyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 389 mg | ClC1=NC=CC=C1CN1C2=C(NCC1)N=CC(=C2)I | C13H12ClIN4
reactant | (4-ethoxycarbonylphenyl) boronic acid | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
product | 4-[1-(2-Chloropyridin-3-ylmethyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl]benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)C1=CC2=C(NCCN2CC=2C(=NC=CC2)Cl)N=C1)=O | C22H21ClN4O2
